US07855194B2
Step 1: 4-[5-(4-Trifluoromethoxy-phenylcarbamoyl)-4-trifluoromethyl-pyrimidin-2-ylamino]-piperidine-1-carboxylic acid tert-butyl ester
A mixture of 2-chloro-4-trifluoromethyl-pyrimidine-5-carboxylic acid (4-trifluoromethoxy-phenyl)-amide (0.8 g, 2.07 mmol, 1.0 equiv; commercially available from Maybridge, UK), 4-amino-piperidine-1-carboxylic acid tert-butyl ester (0.62 g, 3.11 mmol, 1.5 equiv; commercially available) and triethylamine (0.43 mL, 0.32 g, 3.11 mmol, 1.5 equiv) in anhydrous DMAc (2 mL) and acetonitrile (9 mL) was heated by microwave irradiation to 120° C. for 20 min. The organic phase was concentrated under reduced pressure and the crude material purified by silica column chromatography using a MPLC system (CombiFlash Companion, Isco Inc.) eluting with a gradient of heptane/ethyl acetate providing 0.92 g (81%) of the title compound. MS (ISP): 550.2 [M+H]+.

reactant | 2-chloro-4-trifluoromethyl-pyrimidine-5-carboxylic acid (4-trifluoromethoxy-phenyl)-amide | FC(OC1=CC=C(C=C1)NC(=O)C=1C(=NC(=NC1)Cl)C(F)(F)F)(F)F | C13H6ClF6N3O2
reactant | 4-amino-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
reactant | triethylamine | 3.11 mmol, 0.43 mL, 0.32 g, 1.5 equiv | C(C)N(CC)CC | C6H15N
solvent | DMAc | 2 mL | CC(=O)N(C)C | C4H9NO
solvent | acetonitrile | 9 mL | C(C)#N | C2H3N
product | 4-[5-(4-Trifluoromethoxy-phenylcarbamoyl)-4-trifluoromethyl-pyrimidin-2-ylamino]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC=C(C(=N1)C(F)(F)F)C(NC1=CC=C(C=C1)OC(F)(F)F)=O | C23H25F6N5O4
